Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
generalized weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ y/o woman with a PMH of atrial fibrillation on 
warfarin, PE, CKD III, PVD, HTN, T2DM, neurogenic bladder and 
multinodular goiter, who was referred by her PCP for generalized 
weakness and decreased appetite. Per the daughter, ___, for 
the past three days the patient has been feeling nauseated and 
clear, watery NBNB vomiting ___. Normal BM today. The patient 
has not been eating or drinking, has required her daughter to 
help her walk to the bathroom, and has not been able to sit up 
due to weakness. 

Denies shortness of breath, chest pain, abdominal pain, blood in 
stool or urine. Of note, the patient was started on methimazole 
1 week ago for hyperthyroidism. She also had a CT scan on ___ 
for lung nodules, with a slightly increased size of the right 
lower lob nodule of 6 mm (previously 5 mm). Remainder of nodules 
unchaged from prior study in ___, but all nodules have 
gradually increased from ___. In ___, she also had a 
pneumonia, for which she was in a rehab facility for a week. 

In the ED, initial vitals were: T 98.1F P 77 BP 100/43 RR 18 98% 

Labs were notable for: Trop-T <0.01. Na 137, K 3.5, Cl 98, HCO3 
28, BUN 33, Cr 1.5, Gluc 107, Ca 8.9, Mg 1.8, P 4.4, ALT 33, AST 
33, AP 125, Tbili 0.5, Alb 3.1. WBC of 9.1, H/H of 10.2/33.4 Plt 
419. INR of 2.6. ProBNP 1144. UA notable for small leuks, 
moderate blood, positive nitrites, >300 protein, RBC 15, WBC 98, 
few bacteria. 

Thyroid studies were pending.
Patient was given: 
___ 18:22 IV CeftriaXONE 1 gm 

On the floor, Ms. ___ reported that she has not been "feeling 
right" since ___, when she had her catheter changed; she 
endorsed increased dysuria and urinary frequency. Denies 
hematuria. Has also had light headedness, with no syncope or 
falls. Denied fevers, chills, chest pain, shortness of breath, 
abdominal pain, diarrhea, BRBPR, melena, hematochezia, and 
constipation. Last BM was yesterday, with one well-formed stool. 
Now she reports that she is feeling considerably better.

 
Past Medical History:
- T2DM (HbA1c 6.1% in ___, diet controlled)
- HLD
- CKD III
- PVD
- OA
- iron deficiency anemia
- paroxysmal atrial fibrillation
- pulmonary embolism
- stroke
- diverticulosis
- goiter (nontoxic multinodular)
- AAA (3.3 cm in ___, no further eval)
- cholelithiasis
- obesity
- lung nodules (as above)
- neurogenic bladder
- prolonged QT 
 
Social History:
___
Family History:
Mother, aunt, and uncle all had CHF, unknown cause; no known hx 
of CAD in her family. Daughter with heart arrhythmia on 
amiodarone  
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: T 97.4F BP 128/39 P 65 RR 18 O2 96%RA
General: Alert, oriented, pleasant woman in NAD.
HEENT: PERRL; EOMs intact. MMM, OP clear. Anicteric sclera.
Neck: Supple; large, palpable goiter; non-tender. No JVD.
CV: RRR, III/VI systolic murmur best heard over LUSB. No rubs or 
gallops. Normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended, NABS; no organomegaly.
GU: Suprapubic catheter in place, draining dark urine.
Ext: Warm, well-perfused. 2+ pulses; trace edema. No clubbing or 
cyanosis.
Neuro: A&Ox3. Preserved strength in upper and lower extremities 
and distal sensation intact to light touch, gait deferred.

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.7 145/55 56 18 95% RA
General: Alert, oriented, pleasant woman in NAD.
HEENT: PERRL; EOMs intact. MMM, OP clear. Anicteric sclera.
Neck: Supple; large, palpable goiter; non-tender. No JVD.
CV: RRR, III/VI systolic murmur best heard over LUSB. No rubs or 
gallops. Normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended, NABS; no organomegaly.
GU: Suprapubic catheter in place, draining dark urine.
Ext: Warm, well-perfused. 2+ pulses; trace edema. No clubbing or 
cyanosis.
Neuro: A&Ox3. CNII-XII grossly intact, moving all extremities 
spontaneously, gait deferred.
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 04:00PM BLOOD WBC-9.1 RBC-4.24 Hgb-10.2* Hct-33.4* 
MCV-79* MCH-24.1* MCHC-30.5* RDW-17.4* RDWSD-49.2* Plt ___
___ 04:00PM BLOOD Neuts-77.7* Lymphs-8.3* Monos-12.8 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-7.07* AbsLymp-0.75* 
AbsMono-1.16* AbsEos-0.02* AbsBaso-0.04
___ 04:00PM BLOOD Glucose-107* UreaN-33* Creat-1.5* Na-137 
K-3.5 Cl-98 HCO3-28 AnGap-15
___ 04:00PM BLOOD ALT-33 AST-33 AlkPhos-125* TotBili-0.5
___ 04:00PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD proBNP-1144*
___ 04:00PM BLOOD Albumin-3.1* Calcium-8.9 Phos-4.4 Mg-1.8
___ 04:00PM BLOOD TSH-<0.02*
___ 04:00PM BLOOD T3-92 Free T4-1.8*
___ 04:08PM BLOOD Lactate-1.4
___ 04:00PM BLOOD TSH-<0.02*
___ 04:00PM BLOOD T3-92 Free T4-1.8*

==============
DISCHARGE LABS
==============
___ 06:20AM BLOOD WBC-5.6 RBC-3.83* Hgb-9.3* Hct-29.9* 
MCV-78* MCH-24.3* MCHC-31.1* RDW-17.5* RDWSD-49.1* Plt ___
___ 06:20AM BLOOD ___ PTT-36.6* ___
___ 06:20AM BLOOD Glucose-82 UreaN-20 Creat-0.8 Na-141 
K-4.0 Cl-104 HCO3-25 AnGap-16

===============
IMAGING/STUDIES
===============
CHEST (PA & LAT) (___)
IMPRESSION: 
Hyperinflated lungs.  Mild pulmonary vascular congestion.  No 
focal
consolidation.

============
MICROBIOLOGY
============

___________________________________________________________
___ 10:33 pm URINE      Source: Suprapubic. 

   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.. 
__________________________________________________________
___ 4:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mrs. ___ is a ___ y/o woman with a PMH of atrial fibrillation on 
warfarin and amiodarone, PE, CKD III, PVD, HTN, T2DM, and 
multinodular goiter recently started on methimazole, who was 
referred by her PCP for generalized weakness and decreased 
appetite, who presented with symptoms and UA consistent with 
UTI, no leukocytosis and no fever.

============
ACUTE ISSUES
============
#Complicated UTI. She had no fever or leukocytosis, and endorsed 
symptoms of urinary urgency and frequency, in the setting of 
suprapubic catheter for neurogenic bladder. She history of 
Pseudomonas (pan-sensitive) and Klebsiella UTIs in the past, 
with no CVA tenderness to suggest pyelonephritis. We avoided 
ciprofloxacin owing to history of prolonged QT. There was no 
evidence of pneumonia on plain film. She was treated with one 
dose of ceftriaxone in the ED, and then was monitored off 
antibiotics. Her urine culture grew GNRs, but this was thought 
to represent colonization. She did well off of antibiotics and 
was discharged without any further antibiotic treatment. 

# Toxic multinodular goiter. Mrs. ___ was recently started on 
methimazole 10 mg on ___. TSH 0.02 on ___ and she had a 
palpable, painless goiter.  Methimazole was held on admission 
but was restarted in the setting of thyroid studies showing 
suppressed TSH. 

# ___ on CKD, stage III. The was thought to be pre-renal in the 
setting of poor PO intake, and her creatinine improved from 1.5 
to 1.1 with the administration of fluids. 

# Generalized weakness. Her weakness had improved on admission 
and was thought to  represent infection vs. thyroid dysfunction 
in the setting of starting methimazole. There was no evidence of 
neurogenic or cardiovascular dysfunction. No syncope or loss of 
consciousness. We opted to pursue UTI treatment, encouragement 
of PO intake, and maintenance fluids as above. 

==============
CHRONIC ISSUES
==============
# Neurogenic bladder. Suprapubic catheter, secondary to diabetic 
nephropathy, with Foley change by urology approximately once per 
month with annual cystoscopy. 

# Tobacco use. Nicotine patch was offered but declined.

# T2DM. Diet-controlled. A1c of 6.1% in ___. 

# Paroxysmal atrial fibrillation. In normal sinus rhythm. 
Warfarin and amiodarone were continued.

# Hypertension. Home lisinopril, amlodipine and HCTZ were 
continued. 

# Hyperlipidemia. Home atorvastatin and aspirin were continued

# Iron deficiency anemia. Home ferrous sulfate 325 mg was 
continued.

===================
TRANSITIONAL ISSUES
===================
# Anticoagulation. Next INR should be drawn on ___. Managed 
by Dr. ___ at ___.
# CODE: FULL
# CONTACT: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 1 mg PO 3X/WEEK (___) 
2. Atorvastatin 40 mg PO QPM 
3. Lisinopril 30 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Amiodarone 200 mg PO DAILY 
6. Amlodipine 5 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Calcium Carbonate 500 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Methimazole 10 mg PO DAILY 
12. Warfarin 2 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Calcium Carbonate 500 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Lisinopril 30 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Warfarin 1 mg PO 3X/WEEK (___) 
11. Warfarin 2 mg PO 4X/WEEK (___) 
12. Methimazole 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSES
=================
- urinary tract infection
- toxic multinodular goiter
- acute kidney injury

===================
SECONDARY DIAGNOSES
===================
- neurogenic bladder
- tobacco use
- type 2 diabetes mellitus
- paroxysmal atrial fibrillation
- hypertension
- hyperlipidemia
- iron deficiency anemia

=================
PRIMARY DIAGNOSES
=================
- urinary tract infection
- toxic multinodular goiter
- acute kidney injury

===================
SECONDARY DIAGNOSES
===================
- neurogenic bladder
- tobacco use
- type 2 diabetes mellitus
- paroxysmal atrial fibrillation
- hypertension
- hyperlipidemia
- iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___ 
___. You were admitted for weakness and concern for a 
urinary tract infection. You were initially treated with 
antibiotics, but because our suspicion that you had a urinary 
tract infection was low since you didn't have a fever and your 
bloodwork did not show signs of infection, we decided to 
discontinue antibiotics and to observe you for 24 hours. During 
that time, you continued to feel well, so we felt it was safe to 
send you home.

Please take all of your discharge medications as prescribed. We 
recommend that you make a follow-up appointment with someone 
from your primary care physician's practice this week to make 
sure you are still doing okay.

We wish you all the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___